US09428499B2
Step-b Preparation of (3-aminophenyl)(4-methylpiperazin-1-yl)methanone
To a stirred solution of (4-methylpiperazin-1-yl)(3-nitrophenyl)methanone (5.5 g, 22.06 mmol) in MeOH (50 ml) was added Pd—C (10%, 0.470 g) followed by triethylsilane (14.10 ml, 88 mmol) (slow addition) at RT. The reaction mixture was stirred at same temperature for 25 min and filtered through celite, washed with methanol (50 ml). The Filtrate was concentrated under vacuum to get the title product (4.11 g).

reactant | (4-methylpiperazin-1-yl)(3-nitrophenyl)methanone | 22.06 mmol, 5.5 g | CN1CCN(CC1)C(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C12H15N3O3
reactant | triethylsilane | 88 mmol, 14.10 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | MeOH | 50 ml | CO | CH4O
catalyst | Pd—C | 0.470 g | [Pd] | Pd
product | (3-aminophenyl)(4-methylpiperazin-1-yl)methanone | 4.11 g | NC=1C=C(C=CC1)C(=O)N1CCN(CC1)C | C12H17N3O
